US04511573
To 30 ml of 2M solution of ethylmagnesium bromide in tetrahydrofuran under nitrogen at 0°-5° is added dropwise over 30 minutes a solution of 10.0 g of 2-(3-pyridyl)indole in 60 ml of tetrahydrofuran. The mixture is stirred fo 0.5 hour at 0°-5° followed by the dropwise addition of 10.6 g of methyl bromotetrolate (J. Chem. Soc. 1950, 3646) in50 ml of tetrahydrofuran. The mixture is stirred for an additional 2 hours, at 0° poured into ice water, and extracted with ether. The aqueous phase is extracted with ether. The ether extract is washed with water, brine, and dried over anhydrous magnesium sulfate. Concentration in vacuo yields 3-(3-methoxycarbonyl-prop-2-ynyl)-2-(3-pyridyl)indole.

reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | 2-(3-pyridyl)indole | 10.0 g | N1=CC(=CC=C1)C=1NC2=CC=CC=C2C1 | C13H10N2
reactant | methyl bromotetrolate | 10.6 g | BrCC#CC(=O)OC | C5H5BrO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 3-(3-methoxycarbonyl-prop-2-ynyl)-2-(3-pyridyl)indole | COC(=O)C#CCC1=C(NC2=CC=CC=C12)C=1C=NC=CC1 | C18H14N2O2
